US06887885B2
1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one was coupled to 2,3-difluorobenzeneboronic acid, in the same way as in Example 1, to give 5-methyl-1-(2,2′,3′-trifluorobiphenyl-5-yl)-1,5-dihydroimidazo[4,5-c]pyridin-4-one as an off-white solid (32 mg, 40%): δH(400 MHz, d6-DMSO) 3.54 (3H, s), 6.61 (1H, d, J 7), 7.35-7.41 (1H, m), 7.48 (1H, dd, J 8 and 7), 7.55-7.67 (3H, m), 7.77-7.81 (2H, m), 8.40 (1H, s); m/z (ES+) 356 [MH+].

reactant | 1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | BrC=1C=C(C=CC1F)N1C=NC=2C(N(C=CC21)C)=O | C13H9BrFN3O
reactant | 2,3-difluorobenzeneboronic acid | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
product | 5-methyl-1-(2,2′,3′-trifluorobiphenyl-5-yl)-1,5-dihydroimidazo[4,5-c]pyridin-4-one | 32 mg, 40% | CN1C(C2=C(C=C1)N(C=N2)C=2C=CC(=C(C2)C2=C(C(=CC=C2)F)F)F)=O | C19H12F3N3O
